* C:\IMR_Projects\IMR\Arb_Power_Booster\Simulate\Current Amplifier-1_REV_22.asc
V1 N013 0 15
V2 N014 0 -15
R3 VTOP VO .2
R4 VO VBOT .2
RL VO 0 3.3
CL VO 0 300µ
R1 VCC VB11 510
R2 VB22 VEE 510
R5 N005 VO .2
R6 VO N016 .2
R7 N007 VO .2
R8 VO N018 .2
Q5 N001 VB1 VTOP 0 SST4401
Q4 VTOP N001 VCC 0 2SAR582D3
Q1 VBOT N019 VEE 0 2SCR582D3
Q2 N002 VB1 N005 0 SST4401
Q7 N005 N002 VCC 0 2SAR582D3
Q8 N004 VB1 N007 0 SST4401
Q9 N007 N004 VCC 0 2SAR582D3
Q11 N016 N020 VEE 0 2SCR582D3
Q12 N022 VB2 N018 0 SST4403
Q13 N018 N022 VEE 0 2SCR582D3
R9 N006 VO .2
R10 VO N017 .2
Q14 N003 VB1 N006 0 SST4401
Q16 N006 N003 VCC 0 2SAR582D3
Q18 N017 N021 VEE 0 2SCR582D3
R11 VB2 VB22 10
R12 VB1 VB11 10
XU1 VIN VTOP VCC VEE VOAT tlv9352
R13 N008 VOAT 200
R14 N015 VOAB 200
Q15 VCC N015 VB22 0 DJT4031N
Q3 VEE N008 VB11 0 DJT4030P
Rvcc VCC N013 .001
Rvee VEE N014 .001
Q6 N021 VB2 N017 0 SST4403
Q10 N020 VB2 N016 0 SST4403
Q17 N019 VB2 VBOT 0 SST4403
V3 VIN 0 SINE(10 2 5K .0005 0 0 10) AC 15
V6 NC_01 0 3.3
XU2 VIN VBOT VCC VEE VOAB tlv9352
.model NPN NPN
.model PNP PNP
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 3m
;ac dec 3m 10 10K
* VCC/VEE currents can be excessively large depending on frquency and capacitive load.\nThe capacitive load will also cause the output to lag and impact the BW of the circuit\nFor my intended use case I never expect a max load capacitance of 300uF
.MODEL DJT4030P PNP (IS=5.5e-13 NF=1 ISE=1.3e-13 NE=1.5 BF=360 VAF=36 IKF=8 ISC=1.1e-13 NC=1.28 BR=55 VAR=6.6 IKR=1.4 RE=9e-3 RB=300e-3 RC=9e-3 CJE=380e-12 VJE=0.7 MJE=0.4 CJC=111e-12 VJC=0.4 MJC=0.35 TF=8.5e-10 TR=3.7e-9 XTB=1.6 QUASIMOD=1 RCO=0.24 GAMMA=6e-10)
.MODEL DJT4031N NPN (IS=1e-14 BF=200 VAF=100 IKF=0.3 XTB=1.5 BR=5 CJC=10pF CJE=20pF TF=0.5ns TR=10ns)
.lib tlv9352.lib
.backanno
.end
